US06936602B1
In THF (20.0 ml) were dissolved methyl 7-[4-(2-propoxy)ethoxyphenyl]-2,3-dihydro-1H-1-benzazepine-4-carboxylate (600 mg) and pyridine (1.53 ml). To the solution was added a solution of methanesulfonic anhydride (1.64 g) in THF (10.0 ml), at room temperature, and the mixture was stirred at 50° C. for 14.5 hours. The mixture was diluted with ethyl acetate, and washed with water, 1N hydrochloric acid, water and saturated brine, and the organic layer was dried with anhydrous magnesium sulfate. The solvent was evaporated under reduced pressure, and the residue was purified with silica gel column chromatography (35 g, hexane:ethyl acetate=4:1→2:1) to give crystals, which were washed with ethyl acetate/hexane to give methyl 1-methylsulfonyl-7-[4-(2-propoxy)ethoxyphenyl]-2,3-dihydro-1H-1-benzazepine-4-carboxylate (231 mg) as white crystals. The mother liquor was concentrated under reduced pressure, and the residue was purified with silica gel column chromatography (350 g, hexane:ethyl acetate=3:1→2:1) to give methyl 1-methylsulfonyl-7-[4-(2-propoxy)ethoxyphenyl]-2,3-dihydro-1H-1-benzazepine-4-carboxylate (170 mg) as white crystals.

reactant | methyl 7-[4-(2-propoxy)ethoxyphenyl]-2,3-dihydro-1H-1-benzazepine-4-carboxylate | 600 mg | CC(C)OCCOC1=CC=C(C=C1)C=1C=CC2=C(C=C(CCN2)C(=O)OC)C1 | C23H27NO4
reactant | pyridine | 1.53 ml | N1=CC=CC=C1 | C5H5N
reactant | methanesulfonic anhydride | 1.64 g | CS(=O)(=O)OS(=O)(=O)C | C2H6O5S2
solvent | THF | 20.0 ml | C1CCOC1 | C4H8O
solvent | THF | 10.0 ml | C1CCOC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | methyl 1-methylsulfonyl-7-[4-(2-propoxy)ethoxyphenyl]-2,3-dihydro-1H-1-benzazepine-4-carboxylate | 231 mg | CS(=O)(=O)N1CCC(=CC2=C1C=CC(=C2)C2=CC=C(C=C2)OCCOC(C)C)C(=O)OC | C24H29NO6S
